US03957814
(3-Methyl-1-(α-methyl-4-fluorobenzyl)-pyrazol-5-one) ##SPC13##
8.3 g (0.074 mol) of tetrolic acid ethyl ester and 11.3 g of α-methyl-4-fluorobenzylhydrazine in 70 ml of n-butanol were heated for 8 hours under reflux.

reactant | tetrolic acid ethyl ester | 0.074 mol, 8.3 g | C(C)OC(C#CC)=O | C6H8O2
reactant | α-methyl-4-fluorobenzylhydrazine | 11.3 g | CC(C1=CC=C(C=C1)F)NN | C8H11FN2
solvent | n-butanol | 70 ml | C(CCC)O | C4H10O
product | 3-Methyl-1-(α-methyl-4-fluorobenzyl)-pyrazol-5-one | CC=1NN(C(C1)=O)C(C1=CC=C(C=C1)F)C | C12H13FN2O
